US05231181
A solution of 25 Kg of 3-methoxyphenethylamine, 9 Kg of toluene and 23 Kg of ethyl formate was heated to reflux (62°-76° C.) for 6 hours. The volatile components were removed under vacuum, the residue treated with a further 9 Kg of toluene and the solvent removed under vacuum, leaving 29.6 Kg of N-formyl-3-methoxy-phenethylamine as a pale yellow oil.

reactant | 3-methoxyphenethylamine | 25 Kg | COC=1C=C(CCN)C=CC1 | C9H13NO
reactant | ethyl formate | 23 Kg | C(=O)OCC | C3H6O2
solvent | toluene | 9 Kg | C1(=CC=CC=C1)C | C7H8
product | N-formyl-3-methoxy-phenethylamine | 29.6 Kg | C(=O)NCCC1=CC(=CC=C1)OC | C10H13NO2
